US05849759
To 1-(4-amidinonaphth-1-yl)methyl-2-isopropyl-4-aminocarbonyl-6-(piperidin-4-ylamino)benzimidazole (1 g) in methanol (50 mL) was added triethylamine (3 mL) and ethylacetimidate (1 g). After stirring for 3 hours, the reaction was concentrated. The residue was purified by HPLC on a C18 Dynamax column with a 3-25% acetonitrile in water gradient with 0.1% trifluoroacetic acid to afford 1-(4-amidinonaphth-1-yl)methyl-2-isopropyl-4-aminocarbonyl-6-(N-(1-iminoethyl)piperidin-4-ylamino)benzimidazole, 1H NMR (DMSO, 300 MHz) δ 9.70 (s, 2H), 9.58 (s, 2H), 9.40 (s, 1H), 9.35 (s, 1H), 8.82 (s, 1H), 8.62-7.20 (m, 9H), 6.10 (s, 2H), 4.10-3.50 (m, 6H), 2.50 (s, 3H), 2.26 (m, 2H), 1.70 (m, 2H), 1.60 (d, 6H), as white solid after freeze drying removal of the solvent.

reactant | 1-(4-amidinonaphth-1-yl)methyl-2-isopropyl-4-aminocarbonyl-6-(piperidin-4-ylamino)benzimidazole | 1 g | C(N)(=N)C1=CC=C(C2=CC=CC=C12)CN1C(=NC2=C1C=C(C=C2C(=O)N)NC2CCNCC2)C(C)C | C28H33N7O
reactant | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
reactant | ethylacetimidate | 1 g | C(C)OC(C)=N | C4H9NO
solvent | methanol | 50 mL | CO | CH4O
product | 1-(4-amidinonaphth-1-yl)methyl-2-isopropyl-4-aminocarbonyl-6-(N-(1-iminoethyl)piperidin-4-ylamino)benzimidazole | C(N)(=N)C1=CC=C(C2=CC=CC=C12)CN1C(=NC2=C1C=C(C=C2C(=O)N)N(C(C)=N)C2CCNCC2)C(C)C | C30H36N8O
